US08791134B2
4-Nitrosotetrahydro-2H-pyran-4-yl 2-benzamidoacetate was prepared from tetrahydro-pyran-4-one oxime and bis(benzoylaminoacetoxy)iodobenzene (synthesized from iodobenzene diacetate and benzoylaminoacetic acid) using conditions of General Method 4. 1H NMR (400 MHz, chloroform-d) δ 7.15-7.28 (5H, m), 4.39 (2H, d, 5.4 Hz), 4.03 (2H, m), 3.71 (2H, m), 2.18 (2H, m), 1.84 (2H, m).

reactant | tetrahydro-pyran-4-one oxime | O1CCC(CC1)=NO | C5H9NO2
reactant | bis(benzoylaminoacetoxy)iodobenzene | C(C1=CC=CC=C1)(=O)NCC(=O)OC=1C(=C(C=CC1)I)OC(CNC(C1=CC=CC=C1)=O)=O | C24H19IN2O6
product | 4-Nitrosotetrahydro-2H-pyran-4-yl 2-benzamidoacetate | C(C1=CC=CC=C1)(=O)NCC(=O)OC1(CCOCC1)N=O | C14H16N2O5
